US05095038
A mixture of methyl 4-(7-carboxynaphth-1-ylmethyl)-3-methoxybenzoate (342 mg), 4-dimethylaminopyridine (358 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (560 mg), and 2-ethylbutylamine (198 mg), was dissolved in 3:1 methylene chloride:dimethylformamide (distilled over CaH2) (4 ml) and stirred for 18 h. Methylene chloride was added and the solution was washed (1N hydrochloric acid, brine), dried (MgSO4) and evaporated to give a yellow foam. Recrystallization from 1:2 methylene chloride:hexane (30 ml) gave methyl 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoate (326 mg, 77%) as a colorless solid; mp 129.5°-130.5° C.

reactant | methyl 4-(7-carboxynaphth-1-ylmethyl)-3-methoxybenzoate | 342 mg | C(=O)(O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C21H18O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 560 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-ethylbutylamine | 198 mg | C(C)C(CN)CC | C6H15N
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 358 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoate | 326 mg, 77% | C(C)C(CNC(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CC | C27H31NO4
